US05208222
Commercially available 1-hydroxy-2-methyl-3-butene (1.91 g) was silylated with 5 g t-butyldimethylsilyl chloride and 4.7 g imidazole in 5 mL DMF and 5 mL dichloromethane for 3 hours. The mixture was poured into water and extracted with 9:1 hexane:ether. The extracts were combined and concentrated to afford 4.3 g 1-t-butyldimethylsilyloxy-2-methyl-3-butene which was used without further purification. The silyloxybutene and 3 mg Sudan 7B red dye were dissolved in 50 mL dichloromethane and treated at -78° C. with ozone until the red color was discharged. The solution was then warmed to room temperature for 30 minutes before cooling back to -78° C. A solution of 2.0M ethyl magnesium bromide (30 mL) in THF was added over 10 minutes and the resulting mixture was warmed to room temperature for 45 minutes before cautious addition of aqueous ammonium chloride at low temperature to quench the excess Grignard reagent. Extraction of the mixture with ether and evaporation of the solvent yielded 3.96 g residual oil confirmed by NMR to be the desired product. This was dissolved in 20 mL of methanol with 475 mg of p-toluenesulfonic acid monohydrate and stirred at 20° C. for 2 hours. The methanol was then removed in vacuo and the residual product was flash chromatographed on 400 g of silica gel (1:1 hexane:ethyl acetate) to yield 1.1 g of 1,3-dihydroxy-2-methyl-pentane as a diastereomeric mixture (by NMR). Subsequent conversion to the title phosphonium iodide was accomplished following the procedure set forth in Preparations Y and Z.

reactant | 1-hydroxy-2-methyl-3-butene | 1.91 g | OCC(C=C)C | C5H10O
reactant | t-butyldimethylsilyl chloride | 5 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | imidazole | 4.7 g | N1C=NC=C1 | C3H4N2
reactant | water | O | H2O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 1-t-butyldimethylsilyloxy-2-methyl-3-butene | 4.3 g | [Si](C)(C)(C(C)(C)C)OCC(C=C)C | C11H24OSi
